US07737149B2
N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-(3,4-dimethylpiperazin-1-yl)benzamide
N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-(3,4-dimethylpiperazin-1-yl)benzamide was prepared following the procedure for Example 100, but staring from ethyl 4-(3,4-dimethylpiperazin-1-yl)benzoate (0.394 g, 1.50 mmol), 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine (0.374 g, 1.5 mmol) and 2M trimethylaluminium in toluene (1.875 mL, 3.75 mmol). The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% 2M ammonia/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (0.301 g, 43.1%) as a white solid.

reactant | ethyl 4-(3,4-dimethylpiperazin-1-yl)benzoate | 1.50 mmol, 0.394 g | CC1CN(CCN1C)C1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine | 1.5 mmol, 0.374 g | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N | C12H15N3O3
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 3.75 mmol, 1.875 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-(3,4-dimethylpiperazin-1-yl)benzamide | 0.301 g, 43.1% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CC(N(CC1)C)C)=O | C25H31N5O4
